US05314902
β-[[2(R)-[[[[4(aminoiminomethyl)phenyl]amino]carbonyl]amino]methyl-propanoyl]-amino]1,3-benzodioxole-5-propanoic acid
A portion of ethyl β-[[2(R)-[[[[4-(aminoiminomethyl)phenyl]amino]carbonyl]amino]methylpropanoyl]amino]-1,3-benzodioxole-5-propanoate (0.18 g; 0.37 mmoles)) was then treated with 1N lithium hydroxide in methanol/water (1:1; 10 ml) for 15 min. The solvents were evaporated under reduced pressure and the residue was dissolved in water/acetonitrile. The crude product was purified by HPLC (C-18 DeltaPak column) using a gradient of acetonitrile/water/trifluoroacetic acid. Both diastereomers were separated and the desired fractions were lyophilized to give 121 mg of white solid (71% combined yield). FAB-MS: MH+ =456.3 (isomer 1) and 456.2 (isomer 2).

reactant | ethyl β-[[2(R)-[[[[4-(aminoiminomethyl)phenyl]amino]carbonyl]amino]methylpropanoyl]amino]-1,3-benzodioxole-5-propanoate | 0.37 mmoles, 0.18 g | NN=CC1=CC=C(C=C1)NC(=O)NC[C@H](C(=O)NC(CC(=O)OCC)C1=CC2=C(OCO2)C=C1)C | C24H29N5O6
reactant | lithium hydroxide | 1N | [OH-].[Li+]
solvent | methanol water | 10 ml | CO.O
product | β-[[2(R)-[[[[4(aminoiminomethyl)phenyl]amino]carbonyl]amino]methyl-propanoyl]-amino]1,3-benzodioxole-5-propanoic acid | 121 mg, 71% | NN=CC1=CC=C(C=C1)NC(=O)NC[C@H](C(=O)NC(CC(=O)O)C1=CC2=C(OCO2)C=C1)C | C22H25N5O6
